US08809333B2
To a solution of (2-methyl-2-(methylsulfonyl)-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]butanoic acid (7.0 g, 0.019 mol) in DMSO (300 mL) was added HOBT (3.24 g, 0.024 mol). The reaction solution was stirred at room temperature for 20 min, EDCI.HCl (4.6 g, 0.024 mol) and O-tetrahydro-2H-pyran-2-yl-hydroxylamine (2.5 g, 0.021 mol) were added at room temperature and the reaction mixture was stirred at room temperature overnight. Water (200 mL) and EtOAc (200 mL) were added and the layers were separated. The aqueous layer was extracted with EtOAc (100 mL×3). The organic layers were combined and washed with H2O (50 mL), brine (20 mL), dried over anhydrous Na2SO4, and concentrated. The residue was purified by flash chromatography on silica gel eluting with MeOH/DCM (0-10% gradient) to give a 2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]butanamide (4.7 g, 52%). LC-MS M+H+472.2.

reactant | 2-methyl-2-(methylsulfonyl)-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]butanoic acid | 0.019 mol, 7.0 g | CC(C(=O)O)(CCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)S(=O)(=O)C | C15H25BN2O6S
reactant | HOBT | 0.024 mol, 3.24 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.024 mol, 4.6 g | CCN=C=NCCCN(C)C.Cl
reactant | O-tetrahydro-2H-pyran-2-yl-hydroxylamine | 0.021 mol, 2.5 g | O1C(CCCC1)ON | C5H11NO2
solvent | DMSO | 300 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | Water | 200 mL | O | H2O
product | 2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]butanamide | 4.7 g, 52% | CC(C(=O)NOC1OCCCC1)(CCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)S(=O)(=O)C | C20H34BN3O7S
